US06248770B1
a. 1-(4-chloro-3-nitrobenzyl)-2-methyl-benzimidazole
Prepared analogously to Example 9a from 2-methyl-benzimidazole and 4-chloro-3-nitrobenzyl chloride in dimethylsulphoxide.

reactant | 2-methyl-benzimidazole | CC=1NC2=C(N1)C=CC=C2 | C8H8N2
reactant | 4-chloro-3-nitrobenzyl chloride | ClC1=C(C=C(CCl)C=C1)[N+](=O)[O-] | C7H5Cl2NO2
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 1-(4-chloro-3-nitrobenzyl)-2-methyl-benzimidazole | ClC1=C(C=C(CN2C(=NC3=C2C=CC=C3)C)C=C1)[N+](=O)[O-] | C15H12ClN3O2
